US04783467
1-(4-Amino-3-cyano-5 methylphenyl)-1,2,4-triazole
A mixture of 1-(4-amino-3-iodo-5-methyl-phenyl)-1,2,4-triazole (14.23 g) and cuprous cyanide (5.94 g) was heated at 120° in N-methylpyrrolidone (32 cm3) for 2.5 hours. The cooled mixture was poured into ammonia solution (100 cm3 ; S.G. 0.880) and the resulting solution was extracted with chloroform:methanol, 19:1 (3×150 cm3). The combined and dried (MgSO4) organic extracts were filtered and evaporated in vacuo (0.5 mm) to afford an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate:methanol, 19:1. Combination and evaporation of appropriate fractions gave an oil which crystallised on trituration with ether to give the title compound, m.p. 231°-3° (2.8 g).

reactant | 1-(4-amino-3-iodo-5-methyl-phenyl)-1,2,4-triazole | 14.23 g | NC1=C(C=C(C=C1C)N1N=CN=C1)I | C9H9IN4
reactant | ammonia | 100 cm3 | N | H3N
reactant | N-methylpyrrolidone | 32 cm3 | CN1C(CCC1)=O | C5H9NO
product | 1-(4-Amino-3-cyano-5 methylphenyl)-1,2,4-triazole | NC1=C(C=C(C=C1C)N1N=CN=C1)C#N | C10H9N5
